US06211199B1
22.6 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-methoxyphenyl)pyrrolidine
Prepare by the method of Example 1.6 using 1-(3,4,5-trimethoxybenzoyl)-3-(4-methoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.3 g, 1.0 mmol) and (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.52 g, 1.0 mmol). Purify by chromatography on silica gel eluting with 2% triethylamine/5% methanol/ethyl acetate to give the title compound: Rf=0.38 (silica gel, 2% triethylamine/5% methanol/ethyl acetate).

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(4-methoxyphenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.0 mmol, 0.3 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=C(C=C2)OC)C=C(C1OC)OC | C24H31NO8S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.0 mmol, 0.52 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
product | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-(4-methoxyphenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=C(C=C2)OC)CCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C39H51N5O6
